US05051413
1.6 g of red copper(I) oxide are introduced into 200 ml of benzene. A solution of 140 g of isocyanoacetic acid ethyl ester and 105 g of freshly distilled methacrolein in 200 ml of benzene is added dropwise to this suspension within a period of 10 minutes with vigorous stirring, during which time the reaction temperature is kept at between 30° and 32° by cooling with ice. When the addition is complete, the mixtureis kept at 30°-32° until the exothermic reaction subsides, and is then stirred at room temperature for one hour. After excess copper(I) oxide has been filtered off, the filtrate is concentrated by evaporation in vacuo at 30°. 600 ml of ether are added to the residue, which is then filtered over Celite and concentrated to dryness byevaporation in vacuo. In this manner, 5-(2-propenyl)-2-oxazoline-4-carboxylic acid ethyl ester is obtained in the form of a colourless oil having a boiling point of 110°-130° (5.3 Pa).

reactant | isocyanoacetic acid ethyl ester | 140 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | methacrolein | O=CC(C)=C | C4H6O
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | copper(I) oxide | 1.6 g | [Cu-]=O
product | 5-(2-propenyl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1CC=C | C9H13NO3
